US06544985B2
(5-Chloro-4-fluoro-2-nitro-phenyl)-carbamic acid tert.-butyl ester
The title compound was prepared via the di-Boc-compound from commercially available 3′-chloro-4′-fluoro-6′-nitroacetanilide [CAS-No. 81962-58-5] (59 g, 254 mmol), and Boc2O (58.13 g, 266 mmol), followed by treatment with NH40H (25%, 77.5 mL, 507 mmol) according to the general procedure B (method d). Obtained as a yellow solid (73.53 g, 100%).

reactant | 3′-chloro-4′-fluoro-6′-nitroacetanilide | 254 mmol, 59 g | ClC=1C=C(NC(C)=O)C(=CC1F)[N+](=O)[O-] | C8H6ClFN2O3
reactant | Boc2O | 266 mmol, 58.13 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (5-Chloro-4-fluoro-2-nitro-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)F)[N+](=O)[O-])=O | C11H12ClFN2O4
